US07691883B2
To a solution of 4.0 g of 3-[(2-methoxyethyl)aminosulfonyl]benzoic acid in 200 ml of tetrahydrofuran was added dropwise a solution of 1.07 M borane-tetrahydrofuran complex in 43.5 ml of tetrahydrofuran under ice-cooling, and this was stirred for 30 minutes, and stirred at room temperature overnight. After 40 ml of methanol was added dropwise under ice-cooling, 100 ml of 2 N hydrochloric acid was added dropwise. After warmed to room temperature, the solvent was distilled off under reduced pressure, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to obtain 3.0 g of oily 3-[(2-methoxyethyl)aminosulfonyl]benzyl alcohol.

reactant | 3-[(2-methoxyethyl)aminosulfonyl]benzoic acid | 4.0 g | COCCNS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C10H13NO5S
reactant | methanol | 40 ml | CO | CH4O
reactant | hydrochloric acid | 2 N, 100 ml | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 43.5 ml | O1CCCC1 | C4H8O
product | 3-[(2-methoxyethyl)aminosulfonyl]benzyl alcohol | 3.0 g | COCCNS(=O)(=O)C=1C=C(CO)C=CC1 | C10H15NO4S
